US08426420B2
ii) Pyrrolidin-3-yl-carbamic acid benzyl ester hydrotrifluoracetate
To a solution of 3.21 g 3-Benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester in 40 ml dichloromethane were added 11 ml TFA. After 16 h the solution was evaporated to give the crude hydrotrifluoroacetate. Yield: 3.20 g.

reactant | 3-Benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.21 g | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)OCC1=CC=CC=C1 | C17H24N2O4
reactant | TFA | 11 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Pyrrolidin-3-yl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CNCC1)=O | C12H16N2O2
